US06433211B1
A mixture containing ethyl p-cyanobenzoate (87.5 g, 0.5 mol), methanol (192.5 g), and water (449.2 g) was placed in a 1 l-flask. The mixture was heated to 82° C., and triethylamine was added thereto so as to adjust the pH of the mixture at 9.0-9.3. Six hours after the reaction started, liquid chromatographic analysis revealed that the reaction mixture contained 67.6 g of p-cyanobenzoic acid (yield 92%). The reaction mixture was cooled to 30° C., and hydrochloric acid was added thereto to lower the pH to 3.1. The mixture was heated again to 82° C., and methanol was added thereto so that the mixture dissolves. The resultant mixture was cooled for crystallization, to thereby obtain 62.4 g of p-cyanobenzoic acid crystal (purity 97.8%, yield 83%).

reactant | ethyl p-cyanobenzoate | 0.5 mol, 87.5 g | C(#N)C1=CC=C(C(=O)OCC)C=C1 | C10H9NO2
reactant | methanol | 192.5 g | CO | CH4O
reactant | water | 449.2 g | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | p-cyanobenzoic acid | 67.6 g, yield 92% | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
